US07534797B2
cis-Toluene-4-sulfonic acid 3-(4-amino-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutylmethyl ester
Into the suspension of cis-[3-(4-amino-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutyl]-methanol (1322 mg, 3.842 mmol) in CH2Cl2 (55 mL) was added dropwise pyridine (6749 μL, 21.7 eq.) at −78° C. under N2 over 10 min followed by the addition of a solution of Ts2O (1568 mg, 1.25 eq.) in CH2Cl2 (35 mL) over 20 min. After stirring at rt for 3 h, the reaction mixture was treated with saturated NaHCO3, and the organic phase was separated. The aqueous phase was extracted with CH2Cl2 (50 mL). The combined organic phases were washed with H2O (2×100 mL) and brine (100 mL), and dried over MgSO4. After removing the solvent, a brown paste (2050 mg) was obtained. The brown paste was purified by chromatography on silica gel (50 g pre-packed column) and eluted with CH2Cl2 (600 mL), 2% MeOH/CH2Cl2 (600 mL), and 4% MeOH/CH2Cl2 (600 mL) to obtain the title compound as a light-brown foam. 1H NMR (CDCl3, 400 MHz): δ=2.20-2.28 (m, 2 H), 2.47 (s, 3H), 2.47-2.52 (m, 1H), 2.57-2.64 (m, 2H), 4.12-4.13 (d, 2H, J=5.2 Hz), 5.07-5.11 (m, 1H), 5.63 (brs, 2H), 7.14 (s, 1H), 7.37-7.39 (d, 2H, J=7.6 Hz), 7.81-7.84 (m, 2H), 8.22 (s, 1H). MS (ES+): m/z 498.9 (100) [MH+]. HPLC: tR=3.0 min (OpenLynx, polar—5 min).

reactant | cis-[3-(4-amino-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutyl]-methanol | 3.842 mmol, 1322 mg | NC=1C2=C(N=CN1)N(C=C2I)[C@H]2C[C@H](C2)CO | C11H13IN4O
reactant | pyridine | 6749 μL, 21.7 eq. | N1=CC=CC=C1 | C5H5N
reactant | Ts2O | 1568 mg, 1.25 eq. | O(S(=O)(=O)C1=CC=C(C)C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C14H14O5S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 55 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | cis-Toluene-4-sulfonic acid 3-(4-amino-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutylmethyl ester | NC=1C2=C(N=CN1)N(C=C2I)[C@H]2C[C@H](C2)COS(=O)(=O)C2=CC=C(C=C2)C | C18H19IN4O3S
